US09120805B2
A suspension of 200 mg (1.60 mmol) 1H-pyrrole-2-carboxylic acid methyl ester and 1.56 g (4.79 mmol) cesium carbonate in 3 ml DMF is heated to 50° C. under stirring. Then a solution of 488 mg (1.60 mmol) 1-(4-benzyloxy-phenyl)-2-bromo-ethanone in 1 ml DMF is added within 3 minutes. The reaction mixture is stirred for 18 hours at 50° C. The reaction mixture is filtered with suction and the filtrate is evaporated. The residue is crystallized from diethyl ether to give 1-[2-(4-benzyloxy-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carboxylic acid methyl ester as beige crystals; HPLC/MS 2.51 min (A), [M+H] 350.

reactant | 1H-pyrrole-2-carboxylic acid methyl ester | 1.60 mmol, 200 mg | COC(=O)C=1NC=CC1 | C6H7NO2
reactant | cesium carbonate | 4.79 mmol, 1.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(4-benzyloxy-phenyl)-2-bromo-ethanone | 1.60 mmol, 488 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-benzyloxy-phenyl)-2-oxo-ethyl]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=CC1)CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H19NO4
